US08067408B2
N-({3′-[(1S,4S)-2,5-Diazabicyclo [2.2.1]hept-2-ylmethyl]-6-fluoro-3-biphenylyl}methyl)-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide
1,1-Dimethylethyl (1S,4S)-5-[(5′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}-carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (0.0488 g, 0.058 mmol) was dissolved in CH2Cl2 (9 mL) and treated with trifluoroacetic acid (1 mL) at 0° C. and then allowed to warm to room temperature. This mixture was stirred for a total of 2 h. The solvents were pumped off, and the material was passed though 2 quaternary ammonium hydroxide cartridges, but 19F NMR still indicated residual TFA. The product was taken up in EtOAc and washed 3× with 0.5 N NaOH, 1× with brine, dried over anhydrous Na2SO4, filtered, and concentrated to give the title compound as a tan solid. LC-MS m/z 746 (M+H)+, 1.30 min (ret time); mp 129-133° C. Analytical HPLC shows 96.8% purity, (ret time 9.820 min).

reactant | 1,1-Dimethylethyl (1S,4S)-5-[(5′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}-carbonyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 0.058 mmol, 0.0488 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C=CC2)C(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CN2[C@@H]1CN([C@H](C2)C1)C(=O)OC(C)(C)C)F)CC | C48H57FN8O5
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 9 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-({3′-[(1S,4S)-2,5-Diazabicyclo [2.2.1]hept-2-ylmethyl]-6-fluoro-3-biphenylyl}methyl)-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | [C@@H]12N(C[C@@H](NC1)C2)CC=2C=C(C=CC2)C2=CC(=CC=C2F)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C(=C1C(=NC2CC)N(N=C1)CC)NC1CCOCC1 | C43H49FN8O3
